US08008279B2
6-(2-(Piperidin-1-yl)ethoxy)-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole
tert-Butyl 6-(2-(piperidin-1-yl)ethoxy)-3,4-dihydro-1H-pyrido[4,3-b]indole-2(5H)-carboxylate (1.33 g, 3.32 mmol) was added to HCl in MeOH (reagent 10, 25 ml) at 25° C. under air. The resulting solution was stirred at room temperature for 3 days. The solvent was removed under reduced pressure to afford (1.00 g, 100%) as a yellow gum. Material was used crude.

reactant | tert-Butyl 6-(2-(piperidin-1-yl)ethoxy)-3,4-dihydro-1H-pyrido[4,3-b]indole-2(5H)-carboxylate | 3.32 mmol, 1.33 g | N1(CCCCC1)CCOC1=CC=CC=2C3=C(NC12)CCN(C3)C(=O)OC(C)(C)C | C23H33N3O3
reactant | HCl | Cl | ClH
solvent | MeOH | 25 ml | CO | CH4O
product | 6-(2-(Piperidin-1-yl)ethoxy)-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | N1(CCCCC1)CCOC1=CC=CC=2C3=C(NC12)CCNC3 | C18H25N3O
